US07935674B2
4-Chloro-1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)-indole obtained in Example 1-(3) and 4-pivaloyloxybenzoyl chloride were treated in a manner similar to Example 2-(4), (5) and 27-(3) to give 4-chloro-3-(4-pivaloyloxyphenylmethyl)-1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)indole as a colorless powder. APCI-Mass m/Z 689/691 (M+NH4).

reactant | 4-Chloro-1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)-indole | ClC1=C2C=CN(C2=CC=C1)[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C22H24ClNO9
reactant | 4-pivaloyloxybenzoyl chloride | C(C(C)(C)C)(=O)OC1=CC=C(C(=O)Cl)C=C1 | C12H13ClO3
product | 4-chloro-3-(4-pivaloyloxyphenylmethyl)-1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)indole | ClC1=C2C(=CN(C2=CC=C1)[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)CC1=CC=C(C=C1)OC(C(C)(C)C)=O | C34H38ClNO11
